US09403798B2
1-(4-Chlorobenzyl)-4-[4-(4-fluorophenyl)piperidin-1-yl]-1,3,5-triazin-2(1H)-one
A methanol (1 mL) solution of 1-(4-chlorobenzyl)-4-[4-(4-fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1,3,5-triazin-2(1H)-one (30 mg, 0.08 mmol) synthesized in Synthesis Example 112 and palladium-activated carbon (3 mg) was stirred in a hydrogen atmosphere at room temperature for 1 day and at 80° C. for 7 hours. To the resultant mixture, chloroform was added and the resultant mixture was stirred further for 1 day. After the completion of the reaction, the reaction solution was filtered through Celite and the filtrate was concentrated under reduced pressure to obtain the title compound (28 mg, yield: 92%).

reactant | methanol | 1 mL | CO | CH4O
reactant | 1-(4-chlorobenzyl)-4-[4-(4-fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1,3,5-triazin-2(1H)-one | 0.08 mmol, 30 mg | ClC1=CC=C(CN2C(N=C(N=C2)N2CC=C(CC2)C2=CC=C(C=C2)F)=O)C=C1 | C21H18ClFN4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-activated carbon | 3 mg | [Pd] | Pd
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-Chlorobenzyl)-4-[4-(4-fluorophenyl)piperidin-1-yl]-1,3,5-triazin-2(1H)-one | 28 mg, yield: 92% | ClC1=CC=C(CN2C(N=C(N=C2)N2CCC(CC2)C2=CC=C(C=C2)F)=O)C=C1 | C21H20ClFN4O
